US08580762B2
Step 1: 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanoic acid
A solution of ethyl 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanoate (0.39 g, 0.82 mmol) in methanol (14 mL) was treated with a 1 M aqueous solution of sodium hydroxide (1.56 mL, 1.56 mmol) and the reaction mixture was heated at 50° C. with stirring for 3.5 h; HPLC/LC MS indicated conversion to the desired product. The reaction mixture was concentrated in vacuo and the aqueous residue was diluted with water (10 mL) and extracted with CH2Cl2 (3×5 mL). The aqueous layer was treated with a 1 M aqueous solution of hydrogen chloride (1.44 mL, 1.44 mmol) to adjust to pH 7. The clear, colorless solution was lyophilized to afford the crude title compound (0.487 g, 110%) as a slightly off-white solid, yield accounts for 1.56 mmol NaCl (91 mg): MS (ESI+) for C21H30N6O5 m/z 447.1 (M+H)+; MS (ESI−) for C21H30N6O5 m/z 445.2 (M−H)−; HPLC purity >95% (ret. time, 1.949 min).

reactant | ethyl 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanoate | 0.82 mmol, 0.39 g | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CCC(=O)OCC)C | C23H34N6O5
reactant | sodium hydroxide | 1.56 mmol, 1.56 mL | [OH-].[Na+]
solvent | methanol | 14 mL | CO | CH4O
product | 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanoic acid | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CCC(=O)O)C | C21H30N6O5
